US05280025
(2) Synthesis of 6-(1-acetoxyethyl)-5-chloro-4-[1-(4-difluoromethoxyphenyl)ethylamino]pyrimidine (Compound 2)
In 50 ml of acetic acid was dissolved 3.1 g of 5-chloro-6-(1-chloroethyl)-4-[1-(4-difluoromethoxyphenyl)ethylamino]-pyrimidine, and to the mixture were added 3.0 g of potassium acetate and 3.0 g of potassium carbonate. The mixture was refluxed under heating for 30 hours.

reactant | 5-chloro-6-(1-chloroethyl)-4-[1-(4-difluoromethoxyphenyl)ethylamino]-pyrimidine | 3.1 g | ClC=1C(=NC=NC1C(C)Cl)NC(C)C1=CC=C(C=C1)OC(F)F | C15H15Cl2F2N3O
reactant | potassium acetate | 3.0 g | C(C)(=O)[O-].[K+]
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-(1-acetoxyethyl)-5-chloro-4-[1-(4-difluoromethoxyphenyl)ethylamino]pyrimidine | C(C)(=O)OC(C)C1=C(C(=NC=N1)NC(C)C1=CC=C(C=C1)OC(F)F)Cl | C17H18ClF2N3O3
